US06534496B1
A solution of 3-(1-acetyl-4-piperidinyl)-1-(2-formyl-2,3,4,5-tetrahydro-1H-2-benzazepin-8-yl)-1-propanone (7.03 g, 20.5 mmol), prepared in 1), in methanol (100 ml) was mixed with concentrated hydrochloric acid (100 ml) and the mixture was heated at 80-85° C. for 1 hour. The methanol was then distilled off and the residual aqueous solution was made basic with NaOH/H2O and extracted with ethyl acetate-tetrahydrofuran (2:1). The extract was washed with saturated NaCl/H2O and dried over MgSO4. The solvent was then distilled off under reduced pressure to provide 3-(1-acetyl-4-piperidinyl)-1-(2,3,4,5-tetrahydro-1H-2-benzazepin-8-yl)-1-propanone (4.92 g) as light-yellow oil.

reactant | 3-(1-acetyl-4-piperidinyl)-1-(2-formyl-2,3,4,5-tetrahydro-1H-2-benzazepin-8-yl)-1-propanone | 20.5 mmol, 7.03 g | C(C)(=O)N1CCC(CC1)CCC(=O)C1=CC2=C(CCCN(C2)C=O)C=C1 | C21H28N2O3
reactant | hydrochloric acid | 100 ml | Cl | ClH
solvent | methanol | 100 ml | CO | CH4O
product | 3-(1-acetyl-4-piperidinyl)-1-(2,3,4,5-tetrahydro-1H-2-benzazepin-8-yl)-1-propanone | 4.92 g | C(C)(=O)N1CCC(CC1)CCC(=O)C1=CC2=C(CCCNC2)C=C1 | C20H28N2O2
